US04638005
2.60 g of 2-(3,4-diacetoxy-1-butenyl)pyrazine (4104) was added to a solution of 78 mg of sodium in 50 ml of methanol. This was stirred at 25° overnight and then concentrated in vacuo. The product was purified by gel permeation chromatography (Biogel P-2/water) and gave 1.71 g of 2-(3,4-dihydroxy-1-butenyl)pyrazine (4105) as a pale yellow oil. UV H2O max: 234 (4.08), 292 (3.86).

reactant | 2-(3,4-diacetoxy-1-butenyl)pyrazine | 2.60 g | C(C)(=O)OC(C=CC1=NC=CN=C1)COC(C)=O | C12H14N2O4
reactant | sodium | 78 mg | [Na] | Na
solvent | methanol | 50 ml | CO | CH4O
product | 2-(3,4-dihydroxy-1-butenyl)pyrazine | 1.71 g | OC(C=CC1=NC=CN=C1)CO | C8H10N2O2
